US04306097
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-3-cyclohexenone ethylene ketal
A solution of 500 mg. (1.59 mmole) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-2-cyclohexenone, 7.8 g. (127 mmole) of ethylene glycol, 375 mg. (3.18 mmole) of hydroquinone and 50 mg. (0.263 mmole) of p-toluenesulfonic acid monohydrate in 50 ml of benzene was heated at reflux for 12 hours using a Dean-Stark condensor filled with 3 A molecular sieves. The reaction was cooled and added to 500 ml. saturated sodium bicarbonate. The quenched mixture was extracted with three 150 ml. portions of ether, dried over magnesium sulfate and evaporated to a solid. This solid was purified via column chromatography on 50 g. of silica gel eluted with 50% etherpetroleum ether to yield (after crystallization from pentane) 393 mg. (69%) of the title product.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-2-cyclohexenone | 1.59 mmole | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1=CC(CCC1)=O)O | C21H30O2
reactant | ethylene glycol | 127 mmole | C(CO)O | C2H6O2
reactant | hydroquinone | 3.18 mmole | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.263 mmole | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-3-cyclohexenone ethylene ketal | C1COC2(CC(=CCC2)C2=C(C=C(C=C2)C(CCCCCC)(C)C)O)O1 | C23H34O3
